US06362177B1
A solution of 3,5-bis(trifluoromethyl)benzoyl chloride (0.060 mmol) in chloroform (0.4 mL) was added to a solution of (S)-1-(4-chlorobenzyl)-3-(glycylamino)pyrrolidine (0.050 mmol) and triethylamine (0.070 mmol) in chloroform (1.0mL). After the reaction mixture was agitated at room temperature for 2.5 h, (aminomethyl)polystyrene resin (1.04 mmol/g, 50 mg, 50 mmol) was added and the mixture was agitated at room temperature for 12 h. The reaction mixture was filtered and the resin was washed with dichloromethane (0.5 mL). The filtrate and washing were combined, dichloromethane (4 mL) was added, and the solution was washed with 2 N aqueous NaOH solution (0.5 mL) to give (S)-3-[N-{3,5-bis(trifluoromethyl)benzoyl}glycyl]amino-1-(4-chlorobenzyl)pyrrolidine (compound No. 5) (14.4 mg, 57%): The purity was determined by RPLC/MS (97%); ESI/MS m/e 508.0 (M++H, C22H20ClF6N3O2).

reactant | 3,5-bis(trifluoromethyl)benzoyl chloride | 0.060 mmol | FC(C=1C=C(C(=O)Cl)C=C(C1)C(F)(F)F)(F)F | C9H3ClF6O
reactant | (S)-1-(4-chlorobenzyl)-3-(glycylamino)pyrrolidine | 0.050 mmol | ClC1=CC=C(CN2C[C@H](CC2)NC(CN)=O)C=C1 | C13H18ClN3O
reactant | triethylamine | 0.070 mmol | C(C)N(CC)CC | C6H15N
reactant | (aminomethyl)polystyrene | 50 mmol, 50 mg | N | H3N
solvent | chloroform | 0.4 mL | C(Cl)(Cl)Cl | CHCl3
solvent | chloroform | 1.0mL | C(Cl)(Cl)Cl | CHCl3
product | (S)-3-[N-{3,5-bis(trifluoromethyl)benzoyl}glycyl]amino-1-(4-chlorobenzyl)pyrrolidine | FC(C=1C=C(C(=O)NCC(=O)N[C@@H]2CN(CC2)CC2=CC=C(C=C2)Cl)C=C(C1)C(F)(F)F)(F)F | C22H20ClF6N3O2
